US06251057B1
In the same apparatus and procedure as Example 1 above, 0.048 g (0.47 mmol) of triethylamine, 0.6 g (4.7 mmol) of 1,3-dichloropropane, and 3.18 g (23.5 mmol) of trichlorosilane were reacted at 200° C. for 15 hrs. The resulting mixture was distilled to give 0.13 g of 1,3-bis(trichlorosilyl)propane (yield; 9%).

reactant | triethylamine | 0.47 mmol, 0.048 g | C(C)N(CC)CC | C6H15N
reactant | 1,3-dichloropropane | 4.7 mmol, 0.6 g | ClCCCCl | C3H6Cl2
reactant | trichlorosilane | 23.5 mmol, 3.18 g | Cl[SiH](Cl)Cl | Cl3HSi
product | 1,3-bis(trichlorosilyl)propane | 0.13 g, yield; 9% | Cl[Si](CCC[Si](Cl)(Cl)Cl)(Cl)Cl | C3H6Cl6Si2
